US07511050B2
Step B: 3-methyl-9-pentyl-7-(4H-1,2,4-triazol-4-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A mixture of 6-(4-methoxybenzyl)-3-methyl-9-pentyl-7-(1H-1,2,4-triazol-1-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (53 mg, 0.12 mmol) in trifluoroacetic acid (10 mL) was stirred at 60° C. overnight. The mixture was concentrated and purified by preparative LC-MS to give the desired product (20 mg, 52%). LCMS calculated for C14H18N9O(M+H): 328.2; found: 328.2.

reactant | 6-(4-methoxybenzyl)-3-methyl-9-pentyl-7-(1H-1,2,4-triazol-1-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.12 mmol, 53 mg | COC1=CC=C(CN2C(=NC=3N(C=4N(C(C23)=O)C(=NN4)C)CCCCC)N4N=CN=C4)C=C1 | C22H25N9O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methyl-9-pentyl-7-(4H-1,2,4-triazol-4-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 20 mg, 52% | CC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)N2C=NN=C2)=O | C14H17N9O
